US09102684B2
5-Bromo-4-methyl-3-phenyl-3H-isobenzofuran-1-one
3M PhMgBr in diethyl ether (1.7 mL, 5.07 mmol, 1.1 eq.) is added dropwise to the solution of 4-Bromo-2-iodo-3-methyl-benzoic acid ethyl ester (1.7 g, 4.61 mmol), LiCl (195 mg, 4.61 mmol) in dry THF (50 mL) at −10° C. The mixture is stirred at −10° C. for 2 hours. Benzaldehyde (0.977 g, 9.22 mmol) is slowly added to mixture at −10° C. This solution is stirred at room temperature for 16 hours and diluted with saturated aqueous ammonium chloride solution (100 mL). This solution is extracted with ethyl acetate (3×70 mL). The combined organic layers are washed with water and brine, dried over anhydrous sodium sulfate, concentrated in vacuo. The residue is purified by a silica chromatography to give the desire compound as a white solid.

reactant | PhMgBr | 3M | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl ether | 5.07 mmol, 1.7 mL, 1.1 eq. | C(C)OCC | C4H10O
reactant | 4-Bromo-2-iodo-3-methyl-benzoic acid ethyl ester | 4.61 mmol, 1.7 g | C(C)OC(C1=C(C(=C(C=C1)Br)C)I)=O | C10H10BrIO2
reactant | LiCl | 4.61 mmol, 195 mg | [Li+].[Cl-]
reactant | Benzaldehyde | 9.22 mmol, 0.977 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 100 mL | [Cl-].[NH4+]
product | 5-Bromo-4-methyl-3-phenyl-3H-isobenzofuran-1-one | BrC=1C(=C2C(OC(C2=CC1)=O)C1=CC=CC=C1)C | C15H11BrO2
